US05665718
1.04 g (3.0 mmol) of 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5,6-dihydro-5-methyl-4H-imidazo[1,5-a][1,4]-benzodiazepin-6-one, 0.64 g (7.5 mmol) of piperidine and 10 ml of N,N-dimethylformamide were stirred at room temperature for 4 hours. The reaction mixture was concentrated, the residue was dissolved in methylene chloride and the solution was made alkaline with 4N sodium hydroxide solution. The solution was washed once with saturated sodium chloride solution, dried with magnesium sulfate and evaporated. By chromatography of the residue on silica gel while eluting with methylene chloride/methanol 9/1 there was obtained 0.89 g (75%) of 8-fluoro-5-methyl-3-[5-(piperidin-1-ylmethyl)-1,2,4-oxadiazol-3-yl]-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one of m.p. 182°-4°, which was converted into the hydrochloride of m.p. 254°-6°.

reactant | 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5,6-dihydro-5-methyl-4H-imidazo[1,5-a][1,4]-benzodiazepin-6-one | 3.0 mmol, 1.04 g | ClCC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C15H11ClFN5O2
reactant | piperidine | 7.5 mmol, 0.64 g | N1CCCCC1 | C5H11N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 8-fluoro-5-methyl-3-[5-(piperidin-1-ylmethyl)-1,2,4-oxadiazol-3-yl]-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 0.89 g, 75% | FC=1C=CC2=C(C(N(CC=3N2C=NC3C3=NOC(=N3)CN3CCCCC3)C)=O)C1 | C20H21FN6O2
